US07582760B2
4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2,3-dione (3.05 g) was dissolved in 45 mL of tert-butanol and Boc-piperazine (2.04 g), Pd2(dba)3 (164 mg), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (217 mg), and potassium carbonate (1.84 g) were added. The mixture was stirred at 120° C. for 4 hours and then cooled to room temperature. The mixture was partitioned between ethyl acetate and water, and the organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography to afford 1.80 g of 4-[1-(3-fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester. MS: 340 (M−Boc+H)+.

reactant | 4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2,3-dione | 3.05 g | BrC1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C15H9BrFNO2
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | 217 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 1.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boc-piperazine | 2.04 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | tert-butanol | 45 mL | C(C)(C)(C)O | C4H10O
catalyst | Pd2(dba)3 | 164 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[1-(3-fluoro-benzyl)-2,3-dioxo-2,3-dihydro-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 1.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(C(N(C2=CC=C1)CC1=CC(=CC=C1)F)=O)=O | C24H26FN3O4
